US09255094B2
To a stirred solution of 2-cyclopropyl-8-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (500 mg, 2.2 mmol) in DMF (10 mL) was added sodium hydride (264 mg, 6.6 mmol). After stirring for 10 min at RT, 4-(2-methyl-oxiranyl)-pyridine (448 mg, 3.3 mmol) was added and stirring continued for another 16 h. The reaction mixture was poured into ice water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to afford crude material, which was re-crystallized in ether and hexane to yield 1-(2-cyclopropyl-8-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol (600 mg). 1H NMR (CD3OD, TFA salt) d (ppm): 8.62 (d, 2H), 8.18 (d, 2H), 7.20 (s, 1H), 6.95 (d, 1H), 6.80 (d, 1H), 4.50 (m, 1H), 4.40 (s, 2H), 4.0 (m, 1H), 3.70 (m, 1H), 3.30 (m, 3H), 3.10 (m, 1H), 2.36 (s, 3H), 1.78 (s, 3H), 1.20 (m, 4H).

reactant | 2-cyclopropyl-8-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.2 mmol, 500 mg | C1(CC1)N1CC2=C(NC=3C=CC(=CC23)C)CC1 | C15H18N2
reactant | sodium hydride | 6.6 mmol, 264 mg | [H-].[Na+]
reactant | 4-(2-methyl-oxiranyl)-pyridine | 3.3 mmol, 448 mg | CC1(OC1)C1=CC=NC=C1 | C8H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(2-cyclopropyl-8-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyridin-4-yl)propan-2-ol | 600 mg | C1(CC1)N1CC2=C(N(C=3C=CC(=CC23)C)CC(C)(O)C2=CC=NC=C2)CC1 | C23H27N3O
